US07888364B2
N-(4-chloro-3-(5-hydroxypyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide (0.12 mmol) was used in Procedure L with excess trifluoroethyl iodide. Purified by silica gel chromatography (0-40% ethyl acetate/hexane) to yield N-(4-chloro-3-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide as a white solid: TLC Rf=0.64 (40% ethyl acetate/hexanes); MS (Q1) 490 (M)+.

reactant | N-(4-chloro-3-(5-hydroxypyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide | 0.12 mmol | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)C1=NC=C(C=C1)O | C19H13ClF3N3O2
reactant | trifluoroethyl iodide | FC(CI)(F)F | C2H2F3I
product | N-(4-chloro-3-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)C1=NC=C(C=C1)OCC(F)(F)F | C21H14ClF6N3O2
